US06916804B2
N-(6-chloro-2-phenylpyrimidin-4-yl)-2-[4-(4-trifluromethyl-2-nitrophenyl)piperazin-1-yl]acetamide (22.48)
2-Bromo-N-(6-chloro-2-phenylpyrimidin-4-yl)acetamide (100 mg) was dissolved in acetonitrile (5 ml) and (4-trifluromethyl-2-nitrophenyl)piperazine (253 mg) added. The solution was stirred overnight at room temperature. After this time the solvent was removed in vacuo. Purification by flash chromatography on silica gel eluting with a mixture of dichloromethane and methanol (98:2, then 93:7 v/v) afforded the title compound. m/z (ES+) 521 (MH)+

reactant | 2-Bromo-N-(6-chloro-2-phenylpyrimidin-4-yl)acetamide | 100 mg | BrCC(=O)NC1=NC(=NC(=C1)Cl)C1=CC=CC=C1 | C12H9BrClN3O
reactant | (4-trifluromethyl-2-nitrophenyl)piperazine | 253 mg | FC(C1=CC(=C(C=C1)N1CCNCC1)[N+](=O)[O-])(F)F | C11H12F3N3O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | N-(6-chloro-2-phenylpyrimidin-4-yl)-2-[4-(4-trifluromethyl-2-nitrophenyl)piperazin-1-yl]acetamide | ClC1=CC(=NC(=N1)C1=CC=CC=C1)NC(CN1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C23H20ClF3N6O3
